US07323455B2
tert-Butyl 2-cyano-5-[5-methyl-2-oxo-5-(1,3-thiazol-2-yl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate was prepared from tert-butyl 2-[5-methyl-2-oxo-5-(1,3-thiazol-2-yl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate and chlorosulfonyl isocyanate generally according to the procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.22 (s, 1H), 7.73 (d, J=3.2 Hz, 1H), 7.71 (d, J=3.1 Hz, 1H), 7.39(d, J=2.3 Hz, 1H), 7.32 (dd, J=8.1, 2.3 Hz, 1H), 7.19 (d, J=4.1 Hz, 1H), 7.14, (d, J=8.3 Hz, 1H), 6.42 (d, J=4.2 Hz, 1H), 4.42 (d, J=15.0 Hz, 1H), 4.25 (d, J=14.9 Hz, 1H), 2.02 (s, 3H), 1.3 (s, 9H). MS (ES) m/z 449 ([M−H]−, 100%).

reactant | tert-butyl 2-[5-methyl-2-oxo-5-(1,3-thiazol-2-yl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate | CC1(OCC(NC2=C1C=C(C=C2)C=2N(C=CC2)C(=O)OC(C)(C)C)=O)C=2SC=CN2 | C22H23N3O4S
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | tert-Butyl 2-cyano-5-[5-methyl-2-oxo-5-(1,3-thiazol-2-yl)-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate | C(#N)C=1N(C(=CC1)C=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CN2)C)C1)C(=O)OC(C)(C)C | C23H22N4O4S
